US06403633B2
Methyl 4-4-(4-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate: 30 mg (0.122 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was dissolved in 1.2 mL of reagent grade acetone. 2-bromo-4′-methoxy acetophenone (0.146 mmol; 28 mg; Aldrich Chemical Co.) was added and the solution was allowed to reflux for 3 h. The solution was allowed to cool and a solid was filtered and washed with methanol and dried in vacuo to afford 46 mg (90% yield) of methyl 4-[4-(4-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | 5-methylthiothiophene-2-carboxylate | CC1=CC=C(S1)C(=S)[O-]
reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.122 mmol, 30 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-bromo-4′-methoxy acetophenone | 0.146 mmol, 28 mg | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-[4-(4-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 46 mg, 90% yield | COC1=CC=C(C=C1)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C17H15NO2S3
